US05393875
In an analogous manner to that described in Example 2, paragraphs (c) and (d), by the reaction of (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride with 2,6-dimethylmorpholine in pyridine followed by chromatographic separation of the resulting diastereomers there was obtained benzyl (RS)-α-[[[1-[(cis-2,6-dimethylmorpholino)carbonyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamate, MS: 501 (M)+, as a colourless oil.

reactant | (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride | C(C1=CC=CC=C1)OC(=O)C(CS(=O)(=O)C(C(=O)Cl)(C)C)CC1=CC=CC=C1 | C21H23ClO5S
reactant | 2,6-dimethylmorpholine | CC1CNCC(O1)C | C6H13NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | benzyl (RS)-α-[[[1-[(cis-2,6-dimethylmorpholino)carbonyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamate | C[C@@H]1O[C@@H](CN(C1)C(=O)C(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)C | C27H35NO6S
